US09359306B2
(RS)—S-cyclopropyl-S-(4-{[4-{[(1R,2R)-2-hydroxy-1-methylpropyl]oxy}-5-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-N-(trifluoroacetyl)sulphoximide (I-9-A)
A solution of (RS)—S-(4-{[4-{[(1R,2R)-2-(benzyloxy)-1-methylpropyl]oxy}-5-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-S-cyclopropyl-N-(trifluoroacetyl)sulphoximide in ethanol was admixed with palladium on carbon (10%) and hydrogenated under atmospheric pressure at room temperature. The mixture was filtered and concentrated by evaporation (yield: 79%).

reactant | (RS)—S-(4-{[4-{[(1R,2R)-2-(benzyloxy)-1-methylpropyl]oxy}-5-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-S-cyclopropyl-N-(trifluoroacetyl)sulphoximide | C(C1=CC=CC=C1)O[C@@H]([C@@H](C)OC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)S(=O)(=NC(C(F)(F)F)=O)C1CC1)C | C27H26F6N4O4S
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | (RS)—S-cyclopropyl-S-(4-{[4-{[(1R,2R)-2-hydroxy-1-methylpropyl]oxy}-5-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-N-(trifluoroacetyl)sulphoximide | yield: 79% | C1(CC1)S(=O)(=NC(C(F)(F)F)=O)C1=CC=C(C=C1)NC1=NC=C(C(=N1)O[C@@H]([C@@H](C)O)C)C(F)(F)F | C20H20F6N4O4S
